US05332731
(a) Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(tetrahydropyran-4-yl)thio-3-cephem-4-carboxylate
Diphenylmethyl 7-amino-3-(tetrahydropyran-4-yl)thio-3-cephem-4-carboxylate hydrochloride (290 mg) was reacted with (Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetic acid (403 mg), followed by purifying the reaction product in accordance with the procedure of Example 1(d), affording the titled compound (500 mg; 88%).

reactant | Diphenylmethyl 7-amino-3-(tetrahydropyran-4-yl)thio-3-cephem-4-carboxylate hydrochloride | 290 mg | Cl.NC1[C@@H]2N(C(=C(CS2)C2CCOCC2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetic acid | 403 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H33N3O3S
product | Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(tetrahydropyran-4-yl)thio-3-cephem-4-carboxylate | 500 mg, 88% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2CCOCC2)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H57N5O5S3
